US07906503B2
Step 1: 2-{1-[Bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)ethanol
To a solution of 2.11 g (4.45 mmol) of methyl{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}(3,5-difluorophenyl)acetate in 40 mL of hexanes and 40 mL of CH2Cl2 was added a solution of 26.7 mL (26.7 mmol) of DIAL-H (1M solution in THF), followed by stirring for 1 h at −78° C. The reaction mixture was warmed to rt for 1.5 h, quenched by addition of 8 g of sodium sulfate decahydrate, and stirred for 1 h at rt. The quenched reaction was filtered and the organic layer was concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound as a white solid. 1NMR (CDCl3) δ 3.99 (s, 2H), 4.03 (s, 21), 4.35 (s, 2H), 4.54 (s, 1H), 6.70-6.80 (m, 3H), 7.306-7.40 (m, 8H); Mass Spectrum: m/e=446 (M+1 35Cl, 35Cl) and 448 (M+1 35Cl, 37Cl).

reactant | methyl{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}(3,5-difluorophenyl)acetate | 4.45 mmol, 2.11 g | COC(C(C1=CC(=CC(=C1)F)F)=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C25H19Cl2F2NO2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 2-{1-[Bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)ethanol | ClC1=CC=C(C=C1)C(N1CC(C1)=C(CO)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C24H19Cl2F2NO
